US08877892B2
Conjugation with Freeze Dried ADP/EDC Mixtures
500 ul of 20 mM ADP monopotassium salt (Fluka product code 01899) was mixed with 200 ul of 0.5M EPPS pH 8.5, 100 ul of trehalose (1 g in 2 ml water), 200 ul of water and 5 μl of either 2M EDC (final concentration 10 mM) or water. Aliquots of 100 ul were freeze dried using the drying program given in Example 6. The two types of dry powders (i.e. with and without EDC) were reconstituted with 100 ul of cationised BSA prepared as described in Example 15 (but desalted into water instead of EPPS buffer) and 100 ul of 0.5M MES pH 6.2. After reaction for 18 hours at 25° C. free ADP was removed by desalting on a NAP-5 column (GE Healthcare) equilibrated with 0.15M NaCl. The fractions containing protein were pooled (0.3 ml) and subjected to acid hydrolysis by heating at 100° C. for 5 min with 75 ul of PiColorlock Gold colorimetric detection reagent for inorganic phosphate (Innova Biosciences product code 303-0030). Blank subtracted absorbance values (A650) for 200 ul samples of hydrolysed BSA-ADP conjugates prepared either with or without EDC were 1.22 and 0.08, respectively.

reactant | ADP monopotassium | 20 mM, 500 ul | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.[K]
reactant | EPPS | 0.5M, 200 ul, pH 8.5 | C1CN(CCN1CCCS(=O)(=O)O)CCO | C9H20N2O4S
reactant | trehalose | 2 ml, 1 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)O)O)O)O)O)O | C12H22O11
reactant | MES | 0.5M, 100 ul, pH 6.2 | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
reactant | ADP | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H15N5O10P2
reactant | EDC
reactant | EDC | 2M
catalyst | Gold | [Au] | Au
solvent | water | O | H2O
solvent | water | 200 ul | O | H2O
product | ADP EDC | P(O)(=O)(OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O.C(CCl)Cl | InChI=1S/C10H15N5O10P2.C2H4Cl2/c11-8-5-9(13-2-12-8)15(3-14-5)10-7(17)6(16)4(24-10)1-23-27(21,22)25-26(18,19)20;3-1-2-4/h2-4,6-7,10,16-17H,1H2,(H,21,22)(H2,11,12,13)(H2,18,19,20);1-2H2/t4-,6-,7-,10-;/m1./s1
